US07435837B2
(±)-[(N-methyl-1-[7-(5-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine
The title compound was prepared (0.051 g, 65%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[7-(5-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.103 g, 0.24 mmol) and methylamine (0.074 g, 2.4 mmol). mp 178-182° C.

reactant | (±)-[7-(5-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.24 mmol, 0.103 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC(=C2)Cl)C | C23H21ClO4S
reactant | methylamine | 2.4 mmol, 0.074 g | CN | CH5N
product | N-methyl-1-[7-(5-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | CNCC1OC2=C(C1)C=CC=C2C2=C(C=CC(=C2)Cl)C | C17H18ClNO
